US08017809B2
Bis(4,4′-(3-chloro-4-methylphenyl-N-methylaminoethoxyboryl)benzyl) ether
The entitled compound (31 mg) was obtained by allowing 32 mg of N-methylethanolamine to act on 99 mg of bis(4,4′-(3-chloro-4-methylphenyl-hydroxyboryl)benzyl) ether in 0.5 mL of ethanol.

reactant | N-methylethanolamine | 32 mg | CNCCO | C3H9NO
reactant | bis(4,4′-(3-chloro-4-methylphenyl-hydroxyboryl)benzyl) ether | 99 mg | ClC=1C=C(C=CC1C)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC(=C(C=C1)C)Cl | C28H26B2Cl2O3
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | Bis(4,4′-(3-chloro-4-methylphenyl-N-methylaminoethoxyboryl)benzyl) ether | ClC=1C=C(C=CC1C)B(OCCNC)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCCNC)C1=CC(=C(C=C1)C)Cl | C34H40B2Cl2N2O3
